US08563575B2
2-Chloro-3-methyl-3H-imidazo[4,5-b]pyridine (150 mg) was added to a solution of 1-ethyl-3-(4-hydroxyphenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (228 mg) and NaH (39.4 mg) in DMF (2 mL) at 100° C. The mixture was stirred at 180° C. under a dry atmosphere (CaCl2 tube) for 1 h. The mixture was neutralized with 1N HCl at 0° C. and extracted with EtOAc. The organic layer was separated, washed with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by column chromatography (NH silica gel, eluted with 0%-100% EtOAc in hexane) to give 1-ethyl-3-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (200 mg) as white crystals.

reactant | 2-Chloro-3-methyl-3H-imidazo[4,5-b]pyridine | 150 mg | ClC1=NC=2C(=NC=CC2)N1C | C7H6ClN3
reactant | 1-ethyl-3-(4-hydroxyphenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 228 mg | C(C)N1C(N(C2=NC=CC=C21)C2=CC=C(C=C2)O)=O | C14H13N3O2
reactant | NaH | 39.4 mg | [H-].[Na+]
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-ethyl-3-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 200 mg | C(C)N1C(N(C2=NC=CC=C21)C2=CC=C(C=C2)OC2=NC=1C(=NC=CC1)N2C)=O | C21H18N6O2
